US07678818B2
n-Butyllithium solution (1.6 M in hexane, 4.95 mL, 8.0 mmol) was added at −78° C. to THF (10 ml) under nitrogen. A solution of (4-chloro-3-fluoro-phenyl)-methyl-amine (575 mg, 4.0 mmol) in THF (3 mL) was added dropwise keeping the temperature below −70° C. The solution was stirred for 5 min at −75° C. Potassium tert-butylate (889 mg, 8 mmol) dissolved in THF (2 ml) was added within 15 min. The reaction was stirred at −75° C. for 2 h and treated with a large excess of dry ice. Within 30 min the reaction was warmed to RT. Water was added and the reaction was extracted twice with diethyl ether. The aqueous layer was acidified to pH1 with 1N aq. HCl solution and extracted twice with diethyl ether. The combined organic layers were washed with sat. aq. NaCl solution, dried over sodium sulfate, filtered and the solvent was removed in vacuo to yield 3-chloro-2-fluoro-6-methylamino-benzoic acid (83 mg, 11%). Light brown solid, 1HNMR (DMSO-d6, 300 MHz): δ 81 (s, 3H), 6.52 (d, J=9.2 Hz, 1H), 7.45 (t, J=9.1 Hz, 1H).

reactant | n-Butyllithium | 8.0 mmol, 1.6 M, 4.95 mL | C(CCC)[Li]
reactant | (4-chloro-3-fluoro-phenyl)-methyl-amine | 4.0 mmol, 575 mg | ClC1=C(C=C(C=C1)NC)F | C7H7ClFN
reactant | Potassium tert-butylate | 8 mmol, 889 mg | CC(C)(C)[O-].[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 3-chloro-2-fluoro-6-methylamino-benzoic acid | 83 mg, 11% | ClC=1C(=C(C(=O)O)C(=CC1)NC)F | C8H7ClFNO2
